US08609653B2
2-(tert-butoxy)-2-(1-((1-(tert-butoxycarbonyl)piperidin-4-yl)methyl)-4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid
The title compound was prepared in a manner similar to that described in Example 27, Step H from methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate and tert-butyl 4-(bromomethyl)piperidine-1-carboxylate. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.48-7.42 (m, 1 H), 7.21-7.14 (m, 1 H), 7.12-7.08 (m, 1 H), 6.95 (dd, J=4.9, 8.4 Hz, 1 H), 6.33 (dd, 1 H), 5.53 (d, J=3.7 Hz, 1 H), 4.30 (t, J=5.2 Hz, 2 H), 4.13 (dd, J=7.0, 14.2 Hz, 3 H), 3.50 (s, 1 H), 2.98-2.77 (m, 5 H), 2.67 (br. s., 2 H), 2.25-2.14 (m, 1 H), 2.14-2.02 (m, 2 H), 1.64 (d, J=12.7 Hz, 1 H), 1.56 (br. s., 1 H), 1.50-1.42 (m, 10 H), 1.31-1.13 (m, 2 H), 0.99-0.89 (s, 9 H); LC/MS (m/z) ES+=592.32 (M+1).

reactant | methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate | C(C)(C)(C)OC(C(=O)OC)C=1C(=C2C(=NC1C)NC=C2)C=2C=C1CCCOC1=CC2 | C24H28N2O4
reactant | tert-butyl 4-(bromomethyl)piperidine-1-carboxylate | BrCC1CCN(CC1)C(=O)OC(C)(C)C | C11H20BrNO2
product | 2-(tert-butoxy)-2-(1-((1-(tert-butoxycarbonyl)piperidin-4-yl)methyl)-4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid | C(C)(C)(C)OC(C(=O)O)C=1C(=C2C(=NC1C)N(C=C2)CC2CCN(CC2)C(=O)OC(C)(C)C)C=2C=C1CCCOC1=CC2 | C34H45N3O6
